US07868188B2
N-(5-{6-Chloro-5-[3-(2,4-dimethyl-1,3-thiazol-5-yl)ureido]pyridin-3-yl}-4-methyl-1,3-thiazol-2-yl)acetamide
Diphenylphosphoryl azide (0.228 mL) was added to a stirred mixture of 2,4-dimethylthiazole-5-carboxylic acid (137 mg), triethylamine (0.148 mL) and toluene (3 mL) and the resultant mixture was heated to 100° C. for 1 hour. N-[5-(5-Amino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (100 mg) was added followed by 1,4-dioxane (3 mL) and the resultant solution was stirred and heated to 100° C. for 2 hours. The mixture was cooled to room temperature and concentrated by evaporation. The residue was purified by preparative HPLC. There was thus obtained the title compound as a white solid (69 mg, 45%); 1H NMR Spectrum: (DMSOd6) 2.16 (s, 3H), 2.27 (s, 3H), 2.39 (s, 3H), 2.54 (s, 3H), 8.17 (s, 1H), 8.65 (s, 1H), 8.82 (s, 1H), 9.75 (s, 1H); Mass Spectrum: M+H+ 437.

reactant | Diphenylphosphoryl azide | 0.228 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2,4-dimethylthiazole-5-carboxylic acid | 137 mg | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | triethylamine | 0.148 mL | C(C)N(CC)CC | C6H15N
reactant | N-[5-(5-Amino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 100 mg | NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(C)=O)C | C11H11ClN4OS
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | N-(5-{6-Chloro-5-[3-(2,4-dimethyl-1,3-thiazol-5-yl)ureido]pyridin-3-yl}-4-methyl-1,3-thiazol-2-yl)acetamide | 69 mg, 45% | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)NC(=O)NC1=C(N=C(S1)C)C | C17H17ClN6O2S2
